US07067534B1
N-(3-{1-[6-(4-ACETYLPHENOXY)-6-(2-FLUOROPHENYL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 1-(4-hydroxyphenyl)ethanone and N-(3-{1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 559.2 (M+H)+.

reactant | 1-(4-hydroxyphenyl)ethanone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | N-(3-{1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H37FN2O2
product | N-(3-{1-[6-(4-ACETYLPHENOXY)-6-(2-FLUOROPHENYL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(=O)C1=CC=C(OC(CCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=C(C=CC=C2)F)C=C1 | C35H43FN2O3
